US09085562B2
f. Preparation of N-(5-fluoropyridin-2-yl)-6-methyl-4-(pyrimidin-5-yloxy)picolinamide
6-methyl-4-(pyrimidin-5-yloxy)picolinic acid (610 mg, 2.64 mmol, 1 eq) and 5-fluoro-2-aminopyridine (296 mg, 2.64 mmol, 1 eq) were dissolved in pyridine (40 mL) in a flame-dried round-bottom flask. The reaction was cooled to −15° C. and phosphorus oxychloride (270 μL, 2.90 mmol, 1.1 eq) was added dropwise while keeping the temperature below −15° C. After stirring for 30 minutes at −15° C. and the reaction was quenched with ice-water and neutralized with 10% K2CO3. The mixture was extracted with EtOAc (3×) and the combined organics were dried (MgSO4), filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel afforded 310 mg (36%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.48 (s, 1H), 9.18 (s, 1H), 8.88 (s, 2H), 8.40 (d, J=3.0 Hz, 1H), 8.27 (dd, J=9.2 Hz, 4.10 Hz, 1H), 7.86 (td, J=8.6, 3.1 Hz, 1H), 7.55 (d, J=2.3 Hz, 1H), 7.29 (d, J=2.3 Hz, 1H), 2.58 (s, 3H); ES-MS [M+1]+: 326.2.

reactant | 6-methyl-4-(pyrimidin-5-yloxy)picolinic acid | 2.64 mmol, 610 mg, 1 eq | CC1=CC(=CC(=N1)C(=O)O)OC=1C=NC=NC1 | C11H9N3O3
reactant | 5-fluoro-2-aminopyridine | 2.64 mmol, 296 mg, 1 eq | FC=1C=CC(=NC1)N | C5H5FN2
reactant | phosphorus oxychloride | 2.90 mmol, 270 μL, 1.1 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-fluoropyridin-2-yl)-6-methyl-4-(pyrimidin-5-yloxy)picolinamide | 310 mg, 36% | FC=1C=CC(=NC1)NC(C1=NC(=CC(=C1)OC=1C=NC=NC1)C)=O | C16H12FN5O2
